US06727262B2
A. 3-Dichloromethylthio-7-fluoro-1-methyl-4-quinolone (Compound 2 of FIG. 1)
To an efficiently stirred and gently cooled 4.2 ml mixture of thionyl chloride (“SOCl2”) and 1.05 ml of pyridine (“Py”) at −3° C. was added 1.015 g (3.708 mmol) of 3-chloromethylsulfinyl-7-fluoro-1-methyl-4-quinolone (monochloroflosequinan)(Compound 1 of FIG. 1). This addition was made in multiple alloquots over a period of approximately 1 min. During this addition, cooling was applied to keep the temperature in the range 0-5° C.

reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 3-chloromethylsulfinyl-7-fluoro-1-methyl-4-quinolone | 3.708 mmol, 1.015 g | ClCS(=O)C1=CN(C2=CC(=CC=C2C1=O)F)C | C11H9ClFNO2S
solvent | pyridine | 1.05 ml | N1=CC=CC=C1 | C5H5N
product | 3-Dichloromethylthio-7-fluoro-1-methyl-4-quinolone | ClC(SC1=CN(C2=CC(=CC=C2C1=O)F)C)Cl | C11H8Cl2FNOS
